US09260436B2
A mixture of 0.53 g of 2-ethylsulfanylphenylboronic acid pinacol ester, 0.52 g of 7-bromo-2-trifluoromethylimidazo[1,2-a]pyridine, 0.02 g of tris(dibenzylideneacetone)dipalladium(0), 0.05 g of 2-dicyclohexylphosphino-2′,4′,6′-triisopropylphenyl, 1.0 g of tripotassium phosphate and 6 ml of 1,4-dioxane was stirred under heat-reflux for 6 hours. Ethyl acetate and water were added to the cooled reaction mixture, and the mixture was filtered. The filtrate was extracted with ethyl acetate and then dried over anhydrous sodium sulfate. The mixture was concentrated under reduced pressure, and the resulting residue was applied to a silica gel column chromatography to obtain 0.40 g of 7-(2-ethylsulfanylphenyl)-2-trifluoromethylimidazo[1,2-a]pyridine (Compound of Present Invention 37).

reactant | 2-ethylsulfanylphenylboronic acid pinacol ester | 0.53 g | C(C)SC1=C(C=CC=C1)B1OC(C)(C)C(C)(C)O1 | C14H21BO2S
reactant | 7-bromo-2-trifluoromethylimidazo[1,2-a]pyridine | 0.52 g | BrC1=CC=2N(C=C1)C=C(N2)C(F)(F)F | C8H4BrF3N2
reactant | tripotassium phosphate | 1.0 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.02 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(2-ethylsulfanylphenyl)-2-trifluoromethylimidazo[1,2-a]pyridine | 0.40 g | C(C)SC1=C(C=CC=C1)C1=CC=2N(C=C1)C=C(N2)C(F)(F)F | C16H13F3N2S
